US07825155B2
1-[2-(trimethylsilyl)-ethoxymethyl]-4-trifluoromethyl-6-iodo-1H-indole-2,3-dione
A solution of 4-trifluoromethyl-6-iodo-1H-indole-2,3-dione (12.0 g, 35.2 mmol) in N,N-dimethylformamide (120 mL) was cooled to 0° C. under nitrogen, and thereto was added 55% sodium hydride (1.70 g, 39.0 mmol) and the mixture was stirred for 30 minutes. Then, to the reaction solution was added dropwise 2-(trimethylsilyl)-ethoxymethyl chloride (7.00 mL, 39.6 mmol), and the mixture was stirred at room temperature for 5 minutes. To the reaction solution was added water, and the mixture was extracted with ethyl acetate-toluene (1:1) twice, washed with water twice, and then dried over magnesium sulfate, and filtered. The filtrate was evaporated and purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to give the titled compound (13.7 g, 83%).

reactant | 4-trifluoromethyl-6-iodo-1H-indole-2,3-dione | 35.2 mmol, 12.0 g | FC(C1=C2C(C(NC2=CC(=C1)I)=O)=O)(F)F | C9H3F3INO2
reactant | sodium hydride | 39.0 mmol, 1.70 g | [H-].[Na+]
reactant | 2-(trimethylsilyl)-ethoxymethyl chloride | 39.6 mmol, 7.00 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 1-[2-(trimethylsilyl)-ethoxymethyl]-4-trifluoromethyl-6-iodo-1H-indole-2,3-dione | 13.7 g, 83% | C[Si](CCOCN1C(C(C2=C(C=C(C=C12)I)C(F)(F)F)=O)=O)(C)C | C15H17F3INO3Si
